US08183289B2
Isobutyl nitrile (0.060 ml, 0.51 mmol) was diluted with DMF (2 mL), placed under nitrogen and heated to 60° C. followed by the addition of methyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)-2-aminophenoxy)-3-fluorophenyl)acetate (93 mg, 0.20 mmol) in 500 μL of DMF. The reaction was stirred 30 minutes and then cooled. The reaction was diluted with ethyl acetate and washed with 2N HCl and saturated sodium bicarbonate. The layers were separated and the organic layer was dried over MgSO4, filtered and concentrated. The material was purified by silica gel chromatography, eluting with hexanes:ethyl acetate (2:1) to yield methyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-fluorophenyl)acetate (35 mg, 39% yield).

reactant | methyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)-2-aminophenoxy)-3-fluorophenyl)acetate | 0.20 mmol, 93 mg | ClC1=CC=C(CCNC(=O)C2=CC(=C(OC3=C(C=C(C=C3)CC(=O)OC)F)C=C2)N)C=C1 | C24H22ClFN2O4
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 500 μL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-fluorophenyl)acetate | 35 mg, 39% yield | ClC1=CC=C(CCNC(=O)C2=CC=C(OC3=C(C=C(C=C3)CC(=O)OC)F)C=C2)C=C1 | C24H21ClFNO4
